US06589978B2
Reduction of (RS)-3-[1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid methyl ester with lithium aluminum hydride (1.5 eq.) in THF at RT, aqueous work-up and crystallization from diethyl ether/hexane yielded (RS)-3-[1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propanol, colorless oil, MS: m/e=284.2 (M+H+).

reactant | (RS)-3-[1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid methyl ester | COC(CCC1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C15H21NO4S
reactant | lithium aluminum hydride | 1.5 eq. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether hexane | C(C)OCC.CCCCCC
solvent | THF | C1CCOC1 | C4H8O
product | (RS)-3-[1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propanol | C1(=CC=C(C=C1)S(=O)(=O)N1C(CCC1)CCCO)C | C14H21NO3S
